US04117164
50 ml of ethyl chloroformate were added dropwise over 5 minutes at 20° C. under nitrogen to a mixture of 7.9 g of N,N-dimethyl-2-nitro-6,7-dihydro [5H] benzocycloheptene-7-methanamine in 50 ml of benzene and the mixture was refluxed for 2 hours and then evaporated to dryness. The residue was extracted with ether and the ether phase was washed with N hydrochloric acid solution and then with water, was dried and distilled to dryness under reduced pressure to obtain 9 g of ethyl methyl-[(2-nitro-6,7-dihydro [5H] benzocycloheptene-7-yl) methyl]-carbamate in the form of a yellow oil.

reactant | ethyl chloroformate | 50 ml | ClC(=O)OCC | C3H5ClO2
reactant | N,N-dimethyl-2-nitro-6,7-dihydro [5H] benzocycloheptene-7-methanamine | 7.9 g | CN(CC1CCC2=C(C=C1)C=C(C=C2)[N+](=O)[O-])C | C14H18N2O2
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | ethyl methyl-[(2-nitro-6,7-dihydro [5H] benzocycloheptene-7-yl) methyl]-carbamate | 9 g | CN(C(OCC)=O)CC1CCC2=C(C=C1)C=C(C=C2)[N+](=O)[O-] | C16H20N2O4
